** sch_path: /foss/designs/Net/TopFinal.sch
**.subckt TopFinal clk SenseA Vbiadapt Vleak Vmem Vadapt ST Vout vdd! gnd!
*.ipin clk
*.ipin SenseA
*.ipin Vbiadapt
*.ipin Vleak
*.opin Vmem
*.opin Vadapt
*.opin ST
*.iopin Vout
*.iopin vdd!
*.iopin gnd!
x1 clk net1 net4 net3 net2 clockril
x2 SenseA Vout net4 net3 net2 net1 cvc_core
x3 Vmem Vout Vadapt ST Vbiadapt Vleak at_lif_finalfix
**.ends

* expanding   symbol:  clockril.sym # of pins=5
** sym_path: /foss/designs/clockril.sym
** sch_path: /foss/designs/clockril.sch
.subckt clockril CLK S1_bar S1 S2_bar S2
*.ipin CLK
*.opin S1
*.opin S2
*.opin S1_bar
*.opin S2_bar
x1 CLKb CLK invril
xa CLKb S2 nora nor2
xb CLK S1 norb nor2
XR1 dA nora GND ppolyf_u w=3.5u l=78.7u
XC1 dA GND cap_mim_2f0fF w=22.36u l=22.36u
x2 dAm dA invril
x3 S1 dAm invril
XR2 dB norb GND ppolyf_u w=3.5u l=78.7u
XC2 dB GND cap_mim_2f0fF w=22.36u l=22.36u
x4 dBm dB invril
x5 S2 dBm invril
x6 S1_bar S1 invril
x7 S2_bar S2 invril
.ends


* expanding   symbol:  cvc_core.sym # of pins=6
** sym_path: /foss/designs/cvc_core.sym
** sch_path: /foss/designs/cvc_core.sch
.subckt cvc_core Sense_A V_out S1_bar S2_bar S2 S1
*.iopin Sense_A
*.ipin S1
*.ipin S1_bar
*.ipin S2
*.ipin S2_bar
*.opin V_out
XM1 V_out S1 Sense_A GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Sense_A S2 GND GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 V_out S1_bar Sense_A VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 Sense_A S2_bar GND VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  Net/at_lif_finalfix.sym # of pins=6
** sym_path: /foss/designs/Net/at_lif_finalfix.sym
** sch_path: /foss/designs/Net/at_lif_finalfix.sch
.subckt at_lif_finalfix Vmem Vin Vadapt ST Vbiadapt Vleak
*.ipin Vleak
*.ipin Vbiadapt
*.ipin Vin
*.opin Vmem
*.opin ST
*.opin Vadapt
XM1 Vmem Vin VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Vmem Vleak GND GND nfet_03v3 L=2.0u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 Vmem net1 GND GND nfet_03v3 L=0.28u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 VDD net1 Vadapt GND nfet_03v3 L=1.0u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 Vmem Vadapt GND GND nfet_03v3 L=2.0u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 Vadapt Vbiadapt GND GND nfet_03v3 L=2.0u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XC3 Vmem GND cap_mim_2f0fF w=9.9u l=8.7u
XC1 Vadapt GND cap_mim_2f0fF w=20.85u l=19.65u
XM3 VDD ST N GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 ST Vmem N GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 N Vmem GND GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 GND ST ST VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 ST Vmem ST VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 ST Vmem VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 net2 ST GND GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net2 ST VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 net3 net2 GND GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 net3 net2 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 net1 net3 GND GND nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM18 net1 net3 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  invril.sym # of pins=2
** sym_path: /foss/designs/invril.sym
** sch_path: /foss/designs/invril.sch
.subckt invril Y A
*.ipin A
*.opin Y
XM3 Y A GND GND nfet_03v3 w=2u l=0.5u
XM4 Y A VDD VDD pfet_03v3 w=4u l=0.5u
.ends


* expanding   symbol:  nor2.sym # of pins=3
** sym_path: /foss/designs/nor2.sym
** sch_path: /foss/designs/nor2.sch
.subckt nor2 A B Y
*.ipin A
*.opin Y
*.ipin B
XM3 Y A GND GND nfet_03v3 w=2u l=0.5u
XM2 pp A VDD VDD pfet_03v3 w=4u l=0.5u
XM1 Y B pp VDD pfet_03v3 w=4u l=0.5u
XM4 Y B GND GND nfet_03v3 w=2u l=0.5u
.ends

.GLOBAL VDD
.GLOBAL GND
.end